Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC:  ___ illness, Cough, poor PO intake
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:  
___ with stage IIIb melanoma of finger s/p amputation and
axillary node dissection, presents with cough, myalgia, 
weakness,
and dysuria, found to have influenza B, hyponatremia, ___,
probable UTI.

She was recently seen by Dr. ___ in outpatient clinic. She had
a cough and plan was to repeat imaging to look for metastases.
She presented today to ED with progressive symptoms. She feels
weak, decreased PO intake, dysuria, malodorous urine. No BM in 3
days. No fever but feels chills. She has not eaten anything in 3
days.

In the ED, initial VS were:  T99.5 -> 101 88 146/68 18 97% RA 
Labs were notable for:  WBC 8.0, Hgb 11.2. Na 128 from 140, BUN
26, Cr 1.3 from 0.9. Flu PCR positive for influenza B. Lactate
1.1. UA with 3 epi, no bact, but >182 WBC, lg leuk, mod bl, no
nitr.
Imaging included:  CXR and CT chest with no pneumonia, ? chronic
NSIP findings
Treatments received: 1L NS, ceftriaxone 1g IV, APAP 1000mg PO
  
On arrival to the floor, patient continues to feel weak. Denies
any acute complaints. She fell on her side without LOC or head
strike recently at home.

ROS:  per HPI otherwise negative in 10-point review
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
Ms. ___ and ___ daughter report that she had noticed some
trouble with her right index finger fingernail some time prior 
to
presentation.  The reports vary from a few months to up to ___
years.  She notes that initially the fingernail cracked and
separated from the nail bed.  She noticed a flesh colored bump
which eventually oozed blood and started to smell bad. She
brought this to the attention of her PCP ___ was
referred to dermatology for evaluation. She saw dermatology on
___ and was noted to have a "right second finger with
hyperkeratotic ulcerated lesion undermining the nail and with
associated onycholysis." A shave biopsy was performed which
unfortunately showed a minimally pigmented melanoma with depth
0.53 mm, clarks level III, one mitosis per millimeter square,
likely ulceration.  The tumor was present at the deep margin so
the true depth was not determined. She was referred to the
cutaneous oncology program for management and met with Dr. ___.
A recommendation was made for partial amputation of the finger
and sentinel lymph node biopsy which was done in conjunction 
with
Dr. ___ from orthopedic hand surgery on ___. Excision of the primary showed a final depth of 2.7 mm and
widely negative margins. The sentinel lymph node biopsy
unfortunately showed subcapsular deposits of melanoma in one of
two recovered lymph nodes. The patient then had staging CT scans
which showed no evidence of metastatic disease in the head chest
abdomen or pelvis.She then went on to have on ___ a
completion lymph node dissection of the right axilla. None of 
the
nine recovered lymph nodes had melanoma. She thus has a final
stage of T3bN1a stage IIIb.

PAST MEDICAL HISTORY: 
Hypertension
diabetes
rheumatoid arthritis
reflux
question of CHF
back pain
depression
coronary artery disease
cholecystectomy
knee replacements bilaterally
left shoulder replacement
 
Social History:
___
Family History:
She reports no history of melanoma or any other cancers.
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:  
VS:  T98.4 148/53 78 24 93RA
GEN:  Elderly obese woman in no distress lying in bed
HEENT:  No scleral icterus, OP clear without lesions, MMM
HEART:  RRR, normal S1 S2, no murmurs
LUNGS:  Occasional expiratory wheezes bilaterally, no rales
ABD:  Soft, nondistended, negative ___, +suprapubic
tenderness
EXT:  No ___ edema, 2+ DP pulses
NEURO:  Alert, oriented

Discharge PE:
VS: T 98 HR 70 BP 140/70 RR 20 94% RA 
Gen:  Appears comfortable, NAD
Eyes: EOMI
HENT:  MMM
Lung:  Mild scattered rales, otherwise clear
CV:  RRR, nl s1s2, JVP 8 cm
Abd:  Nabs, soft, nt/nd
Ext:  trace edema bilaterally
Neuro:  AOX3, moving all extremities, nonfocal exam
Psych: Pleasant, mildly anxious
GU: No foley

 
Pertinent Results:
SIGNIFICANT LABS ON ADMISSION:
___ 04:20PM BLOOD WBC-8.0 RBC-3.84* Hgb-11.2 Hct-34.1 
MCV-89 MCH-29.2 MCHC-32.8 RDW-13.5 RDWSD-43.8 Plt ___
___ 06:35AM BLOOD ___ PTT-25.4 ___
___ 04:20PM BLOOD Glucose-142* UreaN-26* Creat-1.3* Na-128* 
K-3.8 Cl-89* HCO3-26 AnGap-17
___ 04:20PM BLOOD ALT-26 AST-55* AlkPhos-66 TotBili-0.4
___ 04:20PM BLOOD Lipase-18
___ 02:52PM BLOOD CK-MB-7 cTropnT-0.01
___ 04:20PM BLOOD Albumin-4.1 Calcium-8.9 Phos-2.8 Mg-1.8
___ 04:24PM BLOOD Lactate-1.1
 
STUDIES:  
___ CT CHEST W CONTRAST
1. No acute findings. No focal consolidation to suggest 
pneumonia. Unchanged appearance of NSIP pattern fibrosis.  
2. Fluid collection in the area of the right axilla which is 
partially imaged but measures at least 8.9 x 5.4 cm, increased 
from prior exam. 
3. Stable mild dilation of the main pulmonary artery, which 
could suggest pulmonary arterial hypertension in the right 
clinical setting. 
4. Rounded hyperdensities in the area of the right glenohumeral 
joint, possibly representing synovial osteochondromatosis

___ CXR
Low lung volumes with chronic interstitial opacities compatible 
with 
previously characterized NSIP. Slightly increased patchy 
opacities in the lung bases may reflect superimposed 
atelectasis, however infection is difficult to exclude. 

___ ECG
NSR 83 bpm, normal axis, LVH by voltage criteria, no significant 
change from prior

TTE ___:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF = 70%). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic arch is 
mildly dilated. There are focal calcifications in the aortic 
arch. The number of aortic valve leaflets cannot be determined. 
The aortic valve leaflets are moderately thickened. There is 
mild aortic valve stenosis (valve area = 1.7 square cm). Mild 
(1+) aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

 IMPRESSION: mild aortic stenosis; mild aortic regurgitation  

 
Brief Hospital Course:
___ with HTN, DM, arthritis (RA/OA), CAD, possible hx CHF, 
depression, and Stage IIIb acral melanoma s/p finger amp and 
lymph node dissection who was admitted with fevers, weakness, 
cough and found to be influenza B positive with significant
bronchospasm and mild CK elevation -- all very consistent with 
influenza infection. Her course has been complicated by 
worsening hypoxemic respiratory failure in the setting of volume 
administration, requiring lasix, along with delirium in setting 
of Ativan.

1.  Influenza:  Completed course of ostelamavir (conservative 
dosing of daily for borderline Cr, pharmacy guided). 

2.  Bronchospasm:  likely triggered by influenza, now much 
improved with standing and PRN bronchodilator regimen. 
Transitioned to PRN nebs.

3.  Hypoxic respiratory failure, acute diastolic CHF 
exacerbation. Developed increasing rales on exam and CXR with 
bilateral pulm edema, likely acute diastolic HF
exacerbation in setting of volume administration.  She was 
diuresed with Lasix 10 mg IV x1 with improvement, and then 
started on Lasix 20mg PO daily. Her BMP has been stable with 
this, and resp status is improving.  TTE showing normal EF and 
no significant valvular disease. She was weaned off oxygen and 
ambulating on room air prior to discharge.

4.  Rhabdomyolysis: Mild elevation CK, likely from influenza, 
received IVF initially, now downtrending (tolerated Lasix 
admin).

5.  NSIP pattern: seen on CT scan, needs outpatient f/u with 
pulmonary.

6.  Hypertension:  Stable on valsartan and amlodipine.

7.  Delirium:  Mild. Resolved. Withhold benzodiazepines.

8.  Diabetes:  Stable on home metformin and SSI.

9.  Melanoma:  Outpatient oncology followup.

10.  Epistaxis (mild):  Likely from O2 therapy. Ocean nasal 
spray.

Dispo: home with services

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amlodipine 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Valsartan 160 mg PO DAILY 
5. Ranitidine 150 mg PO BID:PRN heartburn 
6. OxycoDONE (Immediate Release)  15 mg PO Q6H:PRN pain 
7. Oxybutynin 5 mg PO BID 
8. Gabapentin 300 mg PO TID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Gabapentin 300 mg PO TID 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Oxybutynin 5 mg PO BID 
6. OxycoDONE (Immediate Release)  15 mg PO Q6H:PRN pain 
7. Ranitidine 150 mg PO BID:PRN heartburn 
8. Valsartan 160 mg PO DAILY 
9. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0
10. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Influenza
Acute diastolic CHF exacerbation
Possible interstitial lung disease
Hypertension
History of right index finger acral melanoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted with weakness, fevers, poor appetite, and were 
found to have influenza (the flu).  You had a lot of wheezing as 
well and required breathing treatments. You also had some extra 
fluid in your lungs, and you were started on a diuretic, Lasix, 
to remove extra fluid.  Your breathing improved and you were 
weaned off oxygen. 
 
Followup Instructions:
___